US04762838
Allyl trans-2-[3-(7-Fluoro-6-methylthioquinazolin-4(3H)-on-3-yl)-2-oxopropyl]-3-methoxy-1-piperidinecarboxylate
In the manner of Example 4, 0.462 g (0.0018 mol) of 7-fluoro-6-methylthioquinazolin-4(3H)-one formic acid salt and 0.750 g (0.00224 mol) of allyl trans-2-(3-bromo-2-oxopropyl)-3-methoxy-1-piperidinecarboxylate were converted into the title compound: yield 0.50 g (60%). 1H-NMR(CDCl3) 1.4-2.1 ppm (multiplet, 4H, OCHCH2CH2CH2N), 2.6 (singlet, 3H, SCH3), 2.8-3.4 (multiplet, 4H, NCH2, COCH2CH), 3.4 (singlet 3H, OCH3), 4.0 (broad singlet, 1H, CHNCO), 4.6 (doublet, 2H, CH2CH=CH2), 5.0 (singlet, 2H, NCH2CO), 5.0-5.5 (multiplet, 2H, CH=CH2), 5.6-6.1 (octet, 1H, CH2 =CH), 7.3 (doublet, 1H, aromatic H), 7.9 (singlet, 1H, N=CH--N), 8.0 (doublet, 1H, aromatic H).

reactant | 7-fluoro-6-methylthioquinazolin-4(3H)-one formic acid salt | 0.0018 mol, 0.462 g | C(=O)O.FC1=C(C=C2C(NC=NC2=C1)=O)SC
reactant | allyl trans-2-(3-bromo-2-oxopropyl)-3-methoxy-1-piperidinecarboxylate | 0.00224 mol, 0.750 g | BrCC(C[C@@H]1N(CCC[C@H]1OC)C(=O)OCC=C)=O | C13H20BrNO4
product | Allyl trans-2-[3-(7-Fluoro-6-methylthioquinazolin-4(3H)-on-3-yl)-2-oxopropyl]-3-methoxy-1-piperidinecarboxylate | FC1=C(C=C2C(N(C=NC2=C1)CC(C[C@@H]1N(CCC[C@H]1OC)C(=O)OCC=C)=O)=O)SC | C22H26FN3O5S
